US06897231B2
B. 1-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))-3-(2-Morpholin-4-ylethoxy)benzene
Triphenylphosphine (0.694 g, 2.65 mmol), tetrahydrofuran (2.12 mL), 2-morpholinoethanol (0.321 mL, 2.65 mmol) and diethylazodicarboxylate (0.418 mL, 2.65 mmol) were added to 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol (0.400 g, 0.662 mmol). The mixture was stirred at ambient temperature for 23 h and poured into aqueous 6 N hydrochloric acid (30 mL). After stirring at ambient temperature for 4 h, the mixture was extracted with ether (3×). The aqueous fraction was added to aqueous 6 N sodium hydroxide (30 mL) and the pH adjusted to 11. The solution was extracted with ethyl acetate (3×) and the organic fractions were combined and dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel pretreated with 2% triethylamine/hexanes followed by 0-20% ethyl acetate/hexanes and gave the title compound (0.0774 g, 30% yield). 1H NMR (CD3OD) δ 8.72 (m, 1H), 8.36 (br s, 1H), 8.10 (dd, 1H), 7.68 (d, 1H), 7.62 (dt, 1H), 7.56 (t, 1H), 7.46 (t, 1H), 7.04 (m, 1H), 4.28 (t, 2H), 3.72 (t, 4H), 2.89 (t, 2H), 2.65 (t, 4H). ES-MS (m/z) 391 [M+1]+.

reactant | Triphenylphosphine | 2.65 mmol, 0.694 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-morpholinoethanol | 2.65 mmol, 0.321 mL | O1CCN(CC1)CCO | C6H13NO2
reactant | diethylazodicarboxylate | 2.65 mmol, 0.418 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol | 0.662 mmol, 0.400 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)O | C39H33N5O2
reactant | hydrochloric acid | 6 N, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 2.12 mL | O1CCCC1 | C4H8O
product | 1-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))-3-(2-Morpholin-4-ylethoxy)benzene | 0.0774 g, 30% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)OCCN1CCOCC1 | C21H22N6O2
